US08022062B2
Dissolve 7-chloro-9-fluoro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (0.25 g, 0.8 mmol) in DMF (8 mL), add potassium carbonate (0.56 g, 4.0 mmol) and 4-fluorobenzyl bromide (0.46 mL, 2.4 mmol). After 14 h at 90° C., dilute with ether and wash with brine. Dry the organic layer over Na2SO4 and evaporate onto silica gel. Purify by chromatography on silica gel eluting with EtOAc/hexane (0:1 to 1:0) to obtain 7-chloro-9-fluoro-6-(4-fluorobenzyloxy)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine.

reactant | 7-chloro-9-fluoro-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.8 mmol, 0.25 g | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C(=C1)F)O | C12H10ClF4NO2
reactant | potassium carbonate | 4.0 mmol, 0.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluorobenzyl bromide | 2.4 mmol, 0.46 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 7-chloro-9-fluoro-6-(4-fluorobenzyloxy)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C(=C1)F)OCC1=CC=C(C=C1)F | C19H15ClF5NO2
